US09126981B2
Synthesis of (S)—N-benzyl-2-(2-(3-benzylureidooxy)acetamido)-N-(2,2-diethoxyethyl)propanamide (Compound II-14)
To a solution of 2-(3-benzylureidooxy)acetic acid (Compound VI-6) (53.8 mg, 0.24 mmol) and hydroxybenzotriazol (40.5 mg, 0.3 mmol) in dichloromethane (1 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (57.5 mg, 0.3 mmol) and 4-dimethylaminopyridine (2.4 mg, 0.02 mmol) and the mixture was stirred at room temperature for 0.5 hr. A solution of (S)-2-amino-N-benzyl-N-(2,2-diethoxyethyl)propanamide (Compound IV-19) (58.9 mg, 0.2 mmol) in dichloromethane (1 ml) was added to the reaction mixture and the mixture was stirred at room temperature for 18 hr. The reaction mixture was washed with sat. NaHCO3 aq. (1 ml), water (1 ml) and brine (1 ml). The organic layer was filtered on Celite (1 g) and magnesium sulfate (150 mg). The filtrate was concentrated in vacuo and the residue was purified with PTLC (development solvent: chloroform:methanol=98:2) to obtain the titled compound (60 mg, 80%).

reactant | 2-(3-benzylureidooxy)acetic acid | 0.24 mmol, 53.8 mg | C(C1=CC=CC=C1)NC(NOCC(=O)O)=O | C10H12N2O4
reactant | hydroxybenzotriazol | 0.3 mmol, 40.5 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.3 mmol, 57.5 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | (S)-2-amino-N-benzyl-N-(2,2-diethoxyethyl)propanamide | 0.2 mmol, 58.9 mg | N[C@H](C(=O)N(CC(OCC)OCC)CC1=CC=CC=C1)C | C16H26N2O3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.02 mmol, 2.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (S)—N-benzyl-2-(2-(3-benzylureidooxy)acetamido)-N-(2,2-diethoxyethyl)propanamide | 60 mg, 80% | C(C1=CC=CC=C1)N(C([C@H](C)NC(CONC(=O)NCC1=CC=CC=C1)=O)=O)CC(OCC)OCC | C26H36N4O6
